US05545652
Phenyl 2,4-difluorophenylcarbamate (5.0 g) and 4.2 g of glycine ethyl ester hydrochloride were dissolved in 30 ml of pyridine and the solution was heated at 80° C. for 14 hours. The reaction solution was concentrated under reduced pressure and to the residue were added 80 ml of ethyl acetate and 20 ml of water. The ethyl acetate layer was washed with 10 ml of an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Hexane (50 ml) was added to the residue and the solid separated out was collected by filtration to give 4.58 g of N-(2,4-difluorophenyl)-N'-ethoxycarbonylmethylurea as a colorless powder.

reactant | Phenyl 2,4-difluorophenylcarbamate | 5.0 g | FC1=C(C=CC(=C1)F)NC(OC1=CC=CC=C1)=O | C13H9F2NO2
reactant | glycine ethyl ester hydrochloride | 4.2 g | Cl.C(C)OC(CN)=O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-(2,4-difluorophenyl)-N'-ethoxycarbonylmethylurea | 4.58 g | FC1=C(C=CC(=C1)F)NC(=O)NCC(=O)OCC | C11H12F2N2O3
